US07829501B2
A Grignard reagent prepared by using 0.61 g of magnesium, 3.6 g of 2-bromopropane and 18 ml of anhydrous diethyl ether, was dropwise added to a mixture comprising 3.0 g of 2-naphthonitrile and 20 ml of anhydrous diethyl ether. After completion of the dropwise addition, the mixture was reacted for 12 hours under reflux. The reaction mixture was put into ice water, and 6N sulfuric acid was added to bring the mixture to be weakly acidic, followed by stirring for 0.5 hour. The mixture was extracted with ethyl acetate, followed by washing with water. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: ethyl acetate/n-hexane=1/50) to obtain 1.14 g of 2-naphthyl isopropyl ketone. The NMR spectrum data of this product is as follows.

reactant | magnesium | 0.61 g | [Mg] | Mg
reactant | 2-bromopropane | 3.6 g | BrC(C)C | C3H7Br
reactant | 2-naphthonitrile | 3.0 g | C1=C(C=CC2=CC=CC=C12)C#N | C11H7N
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
product | 2-naphthyl isopropyl ketone | 1.14 g | C(C)(C)C(=O)C1=CC2=CC=CC=C2C=C1 | C14H14O
